US04067996
59.3 g (0.163 mol) of methyl 2-(4-chloro-phenyl)-2-(4-fluoro-3-trifluoromethyl-phenoxy)-acetate are added to a solution of 15 g of sodium hydroxide in 400 ml of water. The suspension obtained is stirred and heated at the reflux temperature until a limpid solution is obtained (duration, 4 hours). The reaction mixture is cooled and acidified with a hydrochloric acid solution; an oil precipitates, which is extracted with ether. The ether phase is washed with water and dried and the solvent is driven off. The residue is triturated in petroleum ether until it crystallises, and is recrystallised from a mixture of hexane and cyclohexane (50-50). 43 g (yield: 75%) of 2-(4-chlorophenyl)-2-(4-fluoro-3-trifluoromethyl-phenoxy)-acetic acid are thus obtained. Melting point = 106° C.

reactant | methyl 2-(4-chloro-phenyl)-2-(4-fluoro-3-trifluoromethyl-phenoxy)-acetate | 0.163 mol, 59.3 g | ClC1=CC=C(C=C1)C(C(=O)OC)OC1=CC(=C(C=C1)F)C(F)(F)F | C16H11ClF4O3
reactant | sodium hydroxide | 15 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 400 ml | O | H2O
product | 2-(4-chlorophenyl)-2-(4-fluoro-3-trifluoromethyl-phenoxy)-acetic acid | 43 g, yield: 75% | ClC1=CC=C(C=C1)C(C(=O)O)OC1=CC(=C(C=C1)F)C(F)(F)F | C15H9ClF4O3
